US07446216B2
7-Bromo-1-methyl-1H-indene
To a solution of 116 g (0.52 mol) of 4-bromo-3-methylindan-1-one in 950 ml of a mixture of THF-methanol (2:1, vol.) 38.3 g (1.02 mol) of NaBH4 was added in small portions, while vigorously stirring, over 2 h at 0° C. This mixture was stirred for 12 h at room temperature and then added to 1000 ml of cold water. The organic layer was separated, the aqueous layer was extracted with 3×300 ml of methyl-tert-butyl ether. The combined organic fractions were dried over K2CO3 and then evaporated to dryness. The residue was dissolved in 1500 ml of toluene, and 2.0 g of p-TosOH was added. The resulting solution was refluxed for 2 h using a Dean-Stark trap to remove the water formed, and then it was passed through a short Silica Gel 60 column (40-63 um, d 100 mm, l 80 mm, eluent: hexanes). This column was additionally washed with 250 ml of toluene. The combined organic extract was evaporated to dryness. The product was isolated by vacuum distillation (bp 104-108° C./5 mm Hg). Yield 100 g (93%).

reactant | 4-bromo-3-methylindan-1-one | 0.52 mol, 116 g | BrC1=C2C(CC(C2=CC=C1)=O)C | C10H9BrO
reactant | THF methanol | 1.02 mol, 38.3 g | C1CCOC1.CO
reactant | NaBH4 | [BH4-].[Na+]
solvent | water | 1000 ml | O | H2O
product | 7-Bromo-1-methyl-1H-indene | BrC=1C=CC=C2C=CC(C12)C | C10H9Br
